US05126482
A mixture of 8.0 g of (S)-(-)-2-fluoro-2-(trifluoromethyl)hexanoic acid and 24.0 g of phthalyl chloride was stirred at 80° C. for 24 hours. Subsequently, the reaction mixture was distilled under reduced pressure, thereby obtaining 8.2 g of (R)-(-)-2-fluoro-2-(trifluoromethyl)hexanoyl chloride having the physical properties as mentioned hereinbefore.

reactant | (S)-(-)-2-fluoro-2-(trifluoromethyl)hexanoic acid | 8.0 g | F[C@](C(=O)O)(CCCC)C(F)(F)F | C7H10F4O2
reactant | phthalyl chloride | 24.0 g | C1=CC=C(C(=C1)C(=O)Cl)C(=O)Cl | C8H4Cl2O2
product | (R)-(-)-2-fluoro-2-(trifluoromethyl)hexanoyl chloride | 8.2 g | F[C@](C(=O)Cl)(CCCC)C(F)(F)F | C7H9ClF4O
